US07858652B2
(b) 7-Methoxy-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester
To a solution of 7-hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (120 mg, 0.48 mmol) in N,N-dimethylformamide (6 ml) was added sodium hydride (23 mg, 0.57 mmol, 60% dispersion in oil) and the reaction mixture was stirred at room temperature for 10 minutes. The mixture was then cooled to 0° C. and methyl iodide 0.04 ml, 0.64 mmol) was added dropwise. After stirring for 16 hours at room temperature, the mixture was quenched by addition of water (10 ml) and extracted three times with ethyl acetate. The combined organic phases were washed with saturated brine, dried over sodium sulphate, and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant: heptane/ethyl acetate gradient) to yield the title compound as a colorless oil (52 mg, 41%); MS (ISP): 264.0 ([M+H]+), 208.1 ([M+H-Me2C═CH2]+).

reactant | 7-hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.48 mmol, 120 mg | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)O | C14H19NO3
reactant | sodium hydride | 0.57 mmol, 23 mg | [H-].[Na+]
reactant | methyl iodide | 0.64 mmol, 0.04 ml | CI | CH3I
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 7-Methoxy-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 52 mg, 41% | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)OC | C15H21NO3
